US08957080B2
To a solution of (S)-2-[4-amino-5-(4-phenoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 1.03 mmol) in 10 ml of DCM, TFA (10 ml) was added. The reaction mixture was stirred at RT for 2 h. The mixture was concentrated to give (S)-5-(4-phenoxyphenyl)-7-pyrrolidin-2-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (400 mg), which was subjected to the next step without any further purification.

reactant | (S)-2-[4-amino-5-(4-phenoxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.03 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C28H31N5O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-5-(4-phenoxyphenyl)-7-pyrrolidin-2-ylmethyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 400 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C[C@H]2NCCC2 | C23H23N5O
